US03950376
A mixture of ethyl 3-benzylthio-4-chloro-5-sulfamylbenzoate (0.77 g), thiophenol (0.36 ml), and dry ethanol (15 ml) containing 3 millimoles of sodium thiophenolate is refluxed for 20 hours. After cooling the precipitate is collected by filtration to yield ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate with a melting point of 151°- 152° C.

reactant | ethyl 3-benzylthio-4-chloro-5-sulfamylbenzoate | 0.77 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)OCC)C=C(C1Cl)S(N)(=O)=O | C16H16ClNO4S2
reactant | thiophenol | 0.36 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium thiophenolate | 3 millimoles | C1(=CC=CC=C1)[S-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate | C(C1=CC=CC=C1)SC=1C=C(C(=O)OCC)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C22H21NO4S3
